US07495007B2
In a manner similar to the method described in Example 87a, 2-bromo-propenal (5 g, 37 mmol) was used as the starting material in place of 2-methacrolein to react with LiHMDS (1M solution in THF, 37 mL, 37 mmol), trimethylsilyl chloride (4.65 mL, 37 mmol), triethylamine (6.8 mL, 48 mmol) and acetyl chloride (3.43 mL, 48 mmol) to give 1-(1-bromo-vinyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene and used for the next step without further purification.

reactant | 2-bromo-propenal | 37 mmol, 5 g | BrC(C=O)=C | C3H3BrO
reactant | LiHMDS | 37 mmol, 1M, 37 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | trimethylsilyl chloride | 37 mmol, 4.65 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 48 mmol, 6.8 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 48 mmol, 3.43 mL | C(C)(=O)Cl | C2H3ClO
product | 1-(1-bromo-vinyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | BrC(=C)C=NC(=C)O[Si](C)(C)C | C8H14BrNOSi
